US09078442B2
Intermediate 8: 3-(3,5-Dichlorophenyl)-5-(hydroxymethyl)-4,5-dihydro-1,2-oxazole-5-carboxylic acid
2.80 g (8.80 mmol) of ethyl 3-(3,5-dichlorophenyl)-5-(hydroxymethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate were dissolved in 100 ml of methanol, and a solution of mg (11.4 mmol) of NaOH in 20 ml of water was added. After 18 h of stirring at RT, the solvents were removed under reduced pressure, water and methylene chloride were added and the organic phase was separated off. On acidification of the aqueous phase, the product separated off as a white precipitate, which was filtered off and dried.

reactant | ethyl 3-(3,5-dichlorophenyl)-5-(hydroxymethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate | 8.80 mmol, 2.80 g | ClC=1C=C(C=C(C1)Cl)C1=NOC(C1)(C(=O)OCC)CO | C13H13Cl2NO4
reactant | NaOH | 11.4 mmol | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 3-(3,5-Dichlorophenyl)-5-(hydroxymethyl)-4,5-dihydro-1,2-oxazole-5-carboxylic acid | ClC=1C=C(C=C(C1)Cl)C1=NOC(C1)(C(=O)O)CO | C11H9Cl2NO4
